US08211925B2
Synthesis of Methyl 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]benzoate
Methyl 3-{(1S)-2-methoxy-(1-methylethyl)oxy}-5-{[(2-methylphenyl)methyl]oxy}benzoate (50 g, 0.152 mol) was dissolved in THF/ethanol (1:1, 600 ml) and 10% Palladium on carbon (5.0 g) was added. The mixture was hydrogenated under normal pressure at room temperature. The catalyst was filtered off, and the filtrate concentrated in vacuo to give the desired compound (36.7 g, 99%).

reactant | Methyl 3-{(1S)-2-methoxy-(1-methylethyl)oxy}-5-{[(2-methylphenyl)methyl]oxy}benzoate | 0.152 mol, 50 g | COC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)OCC1=C(C=CC=C1)C | C20H24O5
solvent | THF ethanol | 600 ml | C1CCOC1.C(C)O
catalyst | Palladium on carbon | 5.0 g | [Pd] | Pd
product | Methyl 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]benzoate | 36.7 g, 99% | OC=1C=C(C(=O)OC)C=C(C1)O[C@H](COC)C | C12H16O5
